US07452892B2
F. Preparation of 3-(6-(chloromethyl)pyridin-3-yl)isoxazole
To a stirring mixture of 3-(6-methylpyridin-3-yl)isoxazole (76 mg, 0.474 mmol) and 6 mL carbon tetrachloride, was added N-chlorosuccinimide (69.7 mg, 0.52 mmol), followed by 3 mg benzoyl peroxide. The reaction mixture was refluxed. Additional N-chlorosuccinimide (40 mg, 0.30 mmol) was added in two portions after stirring 2 h and 4 h. After refluxing for a total of 13 h the reaction mixture was diluted with EtOAc, then washed sequentially with 1 N aq. NaOH solution, water and saturated aqueous NaCl. The organic phase was dried (Na2SO4), filtered and concentrated under reduced pressure. The crude product was purified by automated silica gel chromatography (eluted with ethyl acetate-hexanes) to isolate 31 mg (34%) of the title compound as a white solid. HPLC/MS: retention time=1.77 min, [M+H]+=195.

reactant | 3-(6-methylpyridin-3-yl)isoxazole | 0.474 mmol, 76 mg | CC1=CC=C(C=N1)C1=NOC=C1 | C9H8N2O
reactant | carbon tetrachloride | 6 mL | C(Cl)(Cl)(Cl)Cl | CCl4
reactant | N-chlorosuccinimide | 0.52 mmol, 69.7 mg | ClN1C(CCC1=O)=O | C4H4ClNO2
reactant | N-chlorosuccinimide | 0.30 mmol, 40 mg | ClN1C(CCC1=O)=O | C4H4ClNO2
solvent | EtOAc | CCOC(=O)C | C4H8O2
catalyst | benzoyl peroxide | 3 mg | C(C1=CC=CC=C1)(=O)OOC(C1=CC=CC=C1)=O | C14H10O4
product | 3-(6-(chloromethyl)pyridin-3-yl)isoxazole | 31 mg, 34% | ClCC1=CC=C(C=N1)C1=NOC=C1 | C9H7ClN2O
